### PR TITLE
[Merged by Bors] - feat(Combinatorics/Graph): add Compatible definition and API

### PR DESCRIPTION
**Pull request by Jun2M**
Preliminary PR for #26770 (subgraph). Adds the `Compatible` predicate and basic API to `Mathlib.Combinatorics.Graph.Basic`.

- **Compatible**: two graphs are compatible if they agree on incidence for every edge in the intersection of their edge sets.
- Includes `Compatible.isLink_iff`, reflexivity/symmetry instances, `IsLink.of_compatible`, `Compatible.of_disjoint_edgeSet`, and the `Inc`/`IsLoopAt`/`IsNonloopAt` variants.
- **copy** API for copying a graph with new vertex/edge sets and `IsLink`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 1]
```diff
@@ -228,6 +236,16 @@ lemma Inc.eq_or_eq_or_eq (hx : G.Inc e x) (hy : G.Inc e y) (hz : G.Inc e z) :
   obtain rfl := hz.eq_of_isLink_of_ne_left hx' hxz.symm
   exact hyz rfl
 
+@[simp]
+lemma not_inc_of_notMem_edgeSet (he : e ∉ E(G)) : ¬ G.Inc e x :=
+  mt Inc.edge_mem he
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean]: Can this be just under `Inc.edge_mem`?

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 2]
```diff
@@ -356,4 +405,53 @@ theorem mem_loopSet (x : α) (e : β) : e ∈ G.loopSet x ↔ G.IsLoopAt e x :=
...
 theorem loopSet_subset_incidenceSet (x : α) : G.loopSet x ⊆ G.incidenceSet x := fun _ he ↦ ⟨x, he⟩
 
+/-!
+### Compatibility of Graphs
+
+We define two graphs to be `Compatible` if for each edge belonging to their shared edge set,
+the incidence relation (i.e., which pairs of vertices it links) is the same in both graphs.
+-/
+
+/-- Two graphs are `Compatible` if the edges in their intersection agree on their ends -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean]:
```suggestion
/-- Two graphs are compatible if their shared edges have the same ends in both graphs. -/
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 3]
```diff
@@ -356,4 +405,53 @@ theorem mem_loopSet (x : α) (e : β) : e ∈ G.loopSet x ↔ G.IsLoopAt e x :=
...
+def Compatible (G H : Graph α β) : Prop :=
+  ∀ ⦃e⦄, e ∈ E(G) → e ∈ E(H) → ∀ x y, G.IsLink e x y ↔ H.IsLink e x y
+
+lemma Compatible.isLink_iff (heG : e ∈ E(G)) (heH : e ∈ E(H)) (h : G.Compatible H) {x y : α} :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean]:
```suggestion
lemma Compatible.isLink_congr (heG : e ∈ E(G)) (heH : e ∈ E(H)) (h : G.Compatible H) {x y : α} :
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 4]
```diff
@@ -356,4 +405,53 @@ theorem mem_loopSet (x : α) (e : β) : e ∈ G.loopSet x ↔ G.IsLoopAt e x :=
...
+    G.IsLink e x y ↔ H.IsLink e x y :=
+  h heG heH x y
+
+@[simp]
+lemma Compatible.refl (G : Graph α β) : G.Compatible G :=
+  fun _ _ _ _ _ => Iff.rfl
+
+instance : Std.Refl (Compatible : Graph α β → Graph α β → Prop) where
+  refl G := Compatible.refl G
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean]:
```suggestion
  refl G := .rfl
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 5]
```diff
@@ -356,4 +405,53 @@ theorem mem_loopSet (x : α) (e : β) : e ∈ G.loopSet x ↔ G.IsLoopAt e x :=
...
+def Compatible (G H : Graph α β) : Prop :=
+  ∀ ⦃e⦄, e ∈ E(G) → e ∈ E(H) → ∀ x y, G.IsLink e x y ↔ H.IsLink e x y
+
+lemma Compatible.isLink_iff (heG : e ∈ E(G)) (heH : e ∈ E(H)) (h : G.Compatible H) {x y : α} :
+    G.IsLink e x y ↔ H.IsLink e x y :=
+  h heG heH x y
+
+@[simp]
+lemma Compatible.refl (G : Graph α β) : G.Compatible G :=
+  fun _ _ _ _ _ => Iff.rfl
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean]:
```suggestion
@[simp]
lemma Compatible.refl (G : Graph α β) : G.Compatible G :=
  fun _ _ _ _ _ => .rfl

@[simp]
lemma Compatible.rfl {G : Graph α β} : G.Compatible G := .refl _
```

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 6]
```diff
@@ -166,6 +170,10 @@ lemma IsLink.isLink_iff_sym2_eq (h : G.IsLink e x y) {x' y' : α} :
     G.IsLink e x' y' ↔ s(x, y) = s(x', y') := by
   rw [h.isLink_iff, Sym2.eq_iff]
 
+@[simp]
+lemma not_isLink_of_notMem_edgeSet (he : e ∉ E(G)) : ¬ G.IsLink e x y :=
+  mt IsLink.edge_mem he
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Graph/Basic.lean]: Same

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 7]
```diff
@@ -113,6 +117,10 @@ scoped notation "E(" G ")" => Graph.edgeSet G
 lemma IsLink.edge_mem (h : G.IsLink e x y) : e ∈ E(G) :=
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:117]: If you mark this `simp` do you still need the lemma below?

Comment (Jun2M) [reply Mathlib/Combinatorics/Graph/Basic.lean:117]: I have tried adding simp tag and simp doesn't seem to be able to prove the lemma below.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 8]
```diff
@@ -228,6 +240,12 @@ lemma Inc.eq_or_eq_or_eq (hx : G.Inc e x) (hy : G.Inc e y) (hz : G.Inc e z) :
   obtain rfl := hz.eq_of_isLink_of_ne_left hx' hxz.symm
   exact hyz rfl
 
+lemma inc_inj {G₁ G₂ : Graph α β} : G₁.Inc e = G₂.Inc f ↔ G₁.IsLink e = G₂.IsLink f := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean]: This lemma looks a bit strange to me: this isn't an injectivity result, as the conclusion is not an equality of the arguments. Perhaps `inc_eq_inc_iff_isLink_eq_isLink`?

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 9]
```diff
@@ -334,6 +356,33 @@ lemma ext_inc {G₁ G₂ : Graph α β} (hV : V(G₁) = V(G₂)) (h : ∀ e x, G
     G₁ = G₂ :=
   Graph.ext hV fun _ _ _ ↦ by simp_rw [isLink_iff_inc, h]
 
+/-- `Graph.copy` produces a graph equal to `G` but with provided definitional choices
+for `vertexSet`, `edgeSet`, and `IsLink`. This is mainly useful for improving
+definitional equalities while keeping the same underlying graph. -/
+@[simps]
+def copy (G : Graph α β) {V : Set α} {E : Set β} {IsLink : β → α → α → Prop} (hV : V(G) = V)
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean]: I'd suggest using `vertexSet` instead of `V` here, so that the named arguments match the ones for the constructor `mk`.

File: Mathlib/Combinatorics/Graph/Basic.lean [hunk 10]
```diff
@@ -334,6 +356,33 @@ lemma ext_inc {G₁ G₂ : Graph α β} (hV : V(G₁) = V(G₂)) (h : ∀ e x, G
...
+    simp_rw [← h_isLink]
+    exact G.eq_or_eq_of_isLink_of_isLink
+  edge_mem_iff_exists_isLink := by
+    simp_rw [← h_isLink, ← hE]
+    exact G.edge_mem_iff_exists_isLink
+  left_mem_of_isLink := by
+    simp_rw [← h_isLink, ← hV]
+    exact G.left_mem_of_isLink
+
+lemma copy_eq (G : Graph α β) {V : Set α} {E : Set β} {IsLink : β → α → α → Prop}
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/Graph/Basic.lean:384]: When written for other types, do we usually mark this `simp`?
